US07390910B2
Ethyl (2Z)-3,4-dihydro-1 (2H)-naphthalenylidene(formylamino)ethanoate
To a stirred slurry of potassium t-butoxide (4.7 g, 42.0 mmol) in 30 mL tetrahydrofuran at 0° C. is added ethyl isocyanoacetate (4.53 g, 40.0 mmol). This is stirred for 30 mins whereupon a solution of β-tetralone (5.88 g, 40.0 mmol) in tetrahydrofuran (20 mL) is added dropwise. The reaction mixture is allowed to warm to room temperature and stirred for 3 hours. The reaction mixture is then recooled in an ice bath and to this is added acetic acid (2.5 g, 41.6 mmol), allowed to warm to room temperature and stirred for an additional 30 mins. The solvent is removed in-vacuo and the residue partitioned between water and ethyl acetate. The organic layer is washed with water and brine, dried over sodium sulfate, filtered, evaporated and crystallized from cyclohexane to give 4.67 g of a white solid (contains some E-isomer), MS: m/z 260.2 (M+1).

reactant | potassium t-butoxide | 42.0 mmol, 4.7 g | CC(C)([O-])C.[K+]
reactant | ethyl isocyanoacetate | 40.0 mmol, 4.53 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | β-tetralone | 40.0 mmol, 5.88 g | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | acetic acid | 41.6 mmol, 2.5 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Ethyl (2Z)-3,4-dihydro-1 (2H)-naphthalenylidene(formylamino)ethanoate | 4.67 g | C/1(\CCCC2=CC=CC=C12)=C(\C(=O)OCC)/NC=O | C15H17NO3
